* source TLV3604
.EXTERNAL INPUT OUT-
.EXTERNAL INPUT GND
.EXTERNAL INPUT OUT+
.EXTERNAL INPUT IN-
.EXTERNAL INPUT IN+
.EXTERNAL INPUT VCC
X_U1         IN+ IN- VCC GND OUT+ OUT- TLV3604
R_R3         OUT- OUT+  100 TC=0,0 
R_R7         0 GND  1m TC=0,0 
R_R6         0 N859551  1m TC=0,0 
R_R4         0 N859507  1m TC=0,0 
V_VINN2         VCC N859507 5
V_V1         IN+ 0  
+SIN 2.5 100m 100k 0 0 0
V_VINN         IN- N859551 2.5
