* source TLV3801
.EXTERNAL INPUT GND
.EXTERNAL INPUT OUT+
.EXTERNAL INPUT IN-
.EXTERNAL INPUT IN+
.EXTERNAL INPUT VEE
.EXTERNAL INPUT OUT-
.EXTERNAL INPUT VCC
X_U1         IN+ IN- VCC VCC VEE GND OUT+ OUT- TLV3801
V_VINN         IN- N857014 0
R_R4         0 N856948  1m TC=0,0 
V_VINN4         VEE 0 -2.5
V_VINN5         GND 0 0
V_VINN2         VCC N856948 2.5
R_R6         0 N857014  1m TC=0,0 
V_V1         IN+ 0  
+SIN 0 100m 200MEG 0 0 0
R_R3         OUT- OUT+  100 TC=0,0 
